US04709048
(c) Preparation of (S)-1-Ethyl-2-oxocyclohexanepropanoic Acid
A solution of (S)-1-ethyl-2-oxocyclohexanepropanoic acid methyl ester (3.25 mol, 689 g) in 1.4 L of ethanol was treated with 1.4 L of 2.5M sodium hydroxide. After 15 minutes at room temperature, the ethanol was removed on a rotary evaporator and the aqueous solution was extracted with ether (2×500 mL). It was acidified with 1 L of 6M hydrochloric acid and extracted with 1×1 L and 2×500 mL of ether. The extracts were combined, dried (magnesium sulfate) and concentrated to a yellow oil (605 g, 3.64 mol, 112%) which was used as in the next step.

reactant | (S)-1-ethyl-2-oxocyclohexanepropanoic acid methyl ester | 3.25 mol, 689 g | COC(CC[C@]1(C(CCCC1)=O)CC)=O | C12H20O3
reactant | sodium hydroxide | 2.5M, 1.4 L | [OH-].[Na+]
solvent | ethanol | 1.4 L | C(C)O | C2H6O
product | (S)-1-Ethyl-2-oxocyclohexanepropanoic Acid | C(C)[C@@]1(C(CCCC1)=O)CCC(=O)O | C11H18O3
